US05066803
3-(4-morpholinylmethyl)-6-(4-methoxvbenzoyl)-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine, m.p. 209°-214° C. (1.5 g from ethyl acetate) was prepared by reaction of 13 g (0.052 mole) of 3-(4-morpholinylmethyl)-4-amino-3,4-dihydro-2H-1,4-benzoxazine with 10.2 g (0.057 mole) 8-(4-methoxyphenyl)-8-ketopropionaldehyde in glacial acetic acid (the 8-ketopropionaldehyde being prepared by reaction of 4-methoxyacetophenone with methyl formate in diethyl ether in the presence of ethanol and sodium hydride).

reactant | 3-(4-morpholinylmethyl)-4-amino-3,4-dihydro-2H-1,4-benzoxazine | 0.052 mole, 13 g | N1(CCOCC1)CC1COC2=C(N1N)C=CC=C2 | C13H19N3O2
reactant | 4-methoxyacetophenone | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | methyl formate | C(=O)OC | C2H4O2
reactant | sodium hydride | [H-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-morpholinylmethyl)-6-(4-methoxvbenzoyl)-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine | N1(CCOCC1)CC1COC=2C=3N1C=C(C3C=CC2)C(C2=CC=C(C=C2)OC)=O | C23H24N2O4
